US04239760
21.2 g (0.1 mol) of 7-chloro-3-hydrazino-benzo-1,2,4-triazine 1-oxide were boiled under reflux with 10 g (0.1 mol) of acetylacetone in 200 ml of ethanol for 5 hours. After cooling, the reaction product which had precipitated was filtered off, washed with ethanol and dried. 20.2 g of 3-(3,5-dimethyl-pyrazol-1-yl)-7-chlorobenzo-1,2,4-triazine 1-oxide of melting point 198°-200° C. (from dimethylformamide) were obtained, that is to say 73% of theory.

reactant | 7-chloro-3-hydrazino-benzo-1,2,4-triazine 1-oxide | 0.1 mol, 21.2 g | ClC1=CC2=C(N=C(N=[N+]2[O-])NN)C=C1 | C7H6ClN5O
reactant | acetylacetone | 0.1 mol, 10 g | C(C)(=O)CC(C)=O | C5H8O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-(3,5-dimethyl-pyrazol-1-yl)-7-chlorobenzo-1,2,4-triazine 1-oxide | 20.2 g | CC1=NN(C(=C1)C)C=1N=[N+](C2=C(N1)C=CC(=C2)Cl)[O-] | C12H10ClN5O
